US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-4-hexylbenzamide
The titled compound was prepared following the procedure K using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and 4-hexylbenzoyl chloride as a yellow oil (85%). HPLC, Rt: 6.45 min (Purity: 99.8%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | 4-hexylbenzoyl chloride | C(CCCCC)C1=CC=C(C(=O)Cl)C=C1 | C13H17ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-4-hexylbenzamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(C2=CC=C(C=C2)CCCCCC)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C42H45NO4
